US07179823B1
A mixture of ethyl 3-[1-(4-hydroxybenzyl)-4-phenyl-3-pyrrolyl]propionate (349 mg), 4-chloromethyl-2-methylthiazole hydrochloride (276 mg), potassium carbonate (276 mg) and N,N-dimethylformamide (5 ml) was stirred at 90° C. for 6 hours. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatograpy, and ethyl 3-[1-[4-(2-methyl-4-thiazolylmethoxy)benzyl]-4-phenyl-3-pyrrolyl]propionate (373 mg, yield: 81%) was obtained as an oily substance from the fraction eluted with ethyl acetate-hexane (1:2, volume ratio).

reactant | ethyl 3-[1-(4-hydroxybenzyl)-4-phenyl-3-pyrrolyl]propionate | 349 mg | OC1=CC=C(CN2C=C(C(=C2)C2=CC=CC=C2)CCC(=O)OCC)C=C1 | C22H23NO3
reactant | 4-chloromethyl-2-methylthiazole hydrochloride | 276 mg | Cl.ClCC=1N=C(SC1)C
reactant | potassium carbonate | 276 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 3-[1-[4-(2-methyl-4-thiazolylmethoxy)benzyl]-4-phenyl-3-pyrrolyl]propionate | 373 mg, yield: 81% | CC=1SC=C(N1)COC1=CC=C(CN2C=C(C(=C2)C2=CC=CC=C2)CCC(=O)OCC)C=C1 | C27H28N2O3S
